US05026712
5,6-Dihydro-3-ethyl-8-[4-(2-ethyl-lH-imidazol-l-yl)phenyl] imidazo[1,5-a]pyridine
Combine 155 g of (0.94 mol) of cyclopropyl-(4-fluorophenyl)methanone with 300 g (3.1 mol) of 2-ethylimidazole and heat to 175° C. under argon for 18 hr. The title compound is isolated by column chromatography on 1500 g of silica gel using 2% methanol/methylene chloride as solvent.

reactant | cyclopropyl-(4-fluorophenyl)methanone | 0.94 mol, 155 g | C1(CC1)C(=O)C1=CC=C(C=C1)F | C10H9FO
reactant | 2-ethylimidazole | 3.1 mol, 300 g | C(C)C=1NC=CN1 | C5H8N2
product | 5,6-Dihydro-3-ethyl-8-[4-(2-ethyl-lH-imidazol-l-yl)phenyl] imidazo[1,5-a]pyridine | C(C)C1=NC=C2N1CCC=C2C2=CC=C(C=C2)N2C(=NC=C2)CC | C20H22N4
